US07615568B2
A. Methyl 4-isopropylthio-2-hydroxybenzoate
Using a procedure analogous to Example 66-A, methyl 4-fluoro-2-(methoxymethoxy)benzoate and potassium 2-propanethiolate gave the title compound.

reactant | methyl 4-fluoro-2-(methoxymethoxy)benzoate | FC1=CC(=C(C(=O)OC)C=C1)OCOC | C10H11FO4
reactant | potassium 2-propanethiolate | CC(C)[S-].[K+]
product | Methyl 4-isopropylthio-2-hydroxybenzoate | C(C)(C)SC1=CC(=C(C(=O)OC)C=C1)O | C11H14O3S
